US05840890
2E. Preparation of 2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-3-propionyloxy-1-propanol
To 5 g of 2-(2-amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1,3-propanediol (ganciclovir) in 20 ml of triethyl orthopropionate was added 5 ml of dimethylsulfoxide (DMSO) and 0.25 g of pyridinium p-toluenesulfonate (PPTS). The slurry was stirred at room temperature for 4.5 hours. 70% Aqueous acetic acid (10 ml) was added and the mixture was stirred for 2 hours. Then 30 ml of ethanol was added, the mixture was stirred for another 0.5 hour and filtered. The white solid was washed twice with 50 ml each of ethanol and air dried to give 4.77 g of product. 1H-NMR: δ 0.9 (t,3H), 2.05 (q,2H), 3.32 (m,2H), 3.8 (m,1H), 3.85 (dd,1H), 4.0 (dd,1H), 4.8 (t,1H), 5.35 (ad,2H), 6.45 (br s, 2H), 7.75 (s,1H), 10.6 (s,1H).

reactant | 2-(2-amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1,3-propanediol | 5 g | NC=1NC(C=2N=CN(C2N1)COC(CO)CO)=O | C9H13N5O4
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | pyridinium p-toluenesulfonate | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | triethyl orthopropionate | 20 ml | C(CC)(OCC)(OCC)OCC | C9H20O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-3-propionyloxy-1-propanol | 4.77 g | NC=1NC(C=2N=CN(C2N1)COC(CO)COC(CC)=O)=O | C12H17N5O5
